US05236952
2 g of 3,4-dimethoxy-5-nitrophenyl 2-thienyl ketone are stirred at 100° for 8 hours in a mixture of 20 ml of 30-33 percent hydrobromic acid in glacial acetic acid and 20 ml of 48 percent aqueous hydrobromic acid. The reaction mixture is subsequently evaporated to dryness. The residue is taken up in ethyl acetate, washed with water, dried over sodium sulfate and filtered, and the filtrate is evaporated. After recrystallization from ethyl acetate/hexane there is obtained 3,4-dihydroxy-5-nitrophenyl 2-thienyl ketone of m.p. 155°-157°.

reactant | 3,4-dimethoxy-5-nitrophenyl 2-thienyl ketone | 2 g | S1C(=CC=C1)C(=O)C1=CC(=C(C(=C1)[N+](=O)[O-])OC)OC | C13H11NO5S
solvent | hydrobromic acid | 20 ml | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | hydrobromic acid | 20 ml | Br | BrH
product | 3,4-dihydroxy-5-nitrophenyl 2-thienyl ketone | S1C(=CC=C1)C(=O)C1=CC(=C(C(=C1)[N+](=O)[O-])O)O | C11H7NO5S
